US07741320B2
Step D: 7-chloro-4-cyclobutyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a solution of the 7-chloro-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide originating from the Step above (3 g) in isopropanol (100 mL) there is added finely ground NaBH4 (2.5 g) and then heating is carried out for 10 minutes at 55° C. The solvent is removed by evaporation under reduced pressure. The residue is taken up in water (100 mL) and brought to acid pH by adding 6N HCl. The title product is extracted with chloroform (3×50 mL). The organic phase is dried over MgSO4 and filtered. The filtrate is evaporated to dryness and the residue is purified by chromatography on a silica column (mobile phase: chloroform). The product obtained is recrystallised from methanol.

reactant | 7-chloro-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N(C=NS2(=O)=O)C2CCC2)C=C1 | C11H11ClN2O2S
reactant | NaBH4 | 2.5 g | [BH4-].[Na+]
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 7-chloro-4-cyclobutyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N(CNS2(=O)=O)C2CCC2)C=C1 | C11H13ClN2O2S
